US09428465B2
Step 4. Preparation of N-hexyl-2,4-dioxo-5-phenyl-pyrimidine-1-carboxamide
The title compound was obtained according to the procedure described for the synthesis of Example 1, starting from 5-phenyluracil (0.05 g, 0.26 mmol); 1.8 equivalents of hexyl isocyanate were used herein. The crude was purified by silica gel column chromatography (cyclohexane:EtOAc 70:30) to afford the title compound (0.04 g, 44%) as white powder. 1H NMR (400 MHz, DMSO-d6): δ 0.87 (t, J=6.5 Hz, 3H), 1.16-1.37 (m, 6H), 1.43-1.61 (m, 2H), 3.23-3.32 (m, 2H), 7.30-7.46 (m, 3H), 7.48-7.57 (m, 2H), 8.28 (s, 1H), 9.19 (t, J=5.6, 1H), 11.94 (s, 1H). 13C NMR (101 MHz, CDCl3): δ 14.14, 22.67, 26.66, 29.31, 31.53, 41.50, 116.87, 128.53, 128.76, 131.49, 136.05, 149.92, 151.03, 161.31. MS (ESI) m/z: 333 [M-NH4]+. MS (ESI) m/z: 314 [M-H]−.

reactant | 5-phenyluracil | 0.26 mmol, 0.05 g | C1(=CC=CC=C1)C=1C(NC(NC1)=O)=O | C10H8N2O2
reactant | hexyl isocyanate | 1.8 equivalents | C(CCCCC)N=C=O | C7H13NO
product | N-hexyl-2,4-dioxo-5-phenyl-pyrimidine-1-carboxamide | 0.04 g, 44% | C(CCCCC)NC(=O)N1C(NC(C(=C1)C1=CC=CC=C1)=O)=O | C17H21N3O3
